US04217266
A pigment preparation consisting of 35% of carbon black (surface area, measured by the BET method, of 230 m2 /g), 5% of a reaction product of 1 mol of nonylphenol and 6 mols of ethylene oxide, 6% of a reaction product of 1 mol of nonylphenol and 10 mols of ethylene oxide and 54% of a copolymer obtained from 69% of α-methylstyrene and 31% of acrylonitrile is produced as follows:

reactant | carbon black | C | CH4
reactant | nonylphenol | 1 mol | CCCCCCCCCC=1C=CC(=CC1)O | C15H24O
reactant | ethylene oxide | 6 mols | C1CO1 | C2H4O
reactant | nonylphenol | 1 mol | CCCCCCCCCC=1C=CC(=CC1)O | C15H24O
reactant | ethylene oxide | 10 mols | C1CO1 | C2H4O
product | α-methylstyrene | 69% | CC(=C)C1=CC=CC=C1 | C9H10
